US07410984B2
1-[3-Fluoro-4-(2-methoxypyridin-3-yl)phenyl]-3-o-tolylurea (P12)
1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II) (0.1 g) was added to a stirred and degassed solution of 1-(4-bromo-3-fluorophenyl)-3-o-tolylurea (0.5 g, 1.5 mmol) and 2-methoxypyrid-3-ylboronic acid (258 mg, 1.7 mmol) in dimethyl formamide (10 mL) and aqueous sodium carbonate in water (5 mL, 2N). The reaction mixture was stirred at 100° C. for 18 hours, then allowed to cool. The solution was concentrated, then ethyl acetate (75 mL) was added and the organic phase was washed with water (3×75 mL). The organic phase was dried (anhydrous magnesium sulfate), concentrated and purified by chromatography on silica gel (20 to 40% v/v ethyl acetate in hexane) to afford the title compound as an oil.

reactant | 1-(4-bromo-3-fluorophenyl)-3-o-tolylurea | 1.5 mmol, 0.5 g | BrC1=C(C=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)F | C14H12BrFN2O
reactant | 2-methoxypyrid-3-ylboronic acid | 1.7 mmol, 258 mg | COC1=NC=CC=C1B(O)O | C6H8BNO3
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2N, 5 mL | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II) | 0.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[3-Fluoro-4-(2-methoxypyridin-3-yl)phenyl]-3-o-tolylurea | FC=1C=C(C=CC1C=1C(=NC=CC1)OC)NC(=O)NC1=C(C=CC=C1)C | C20H18FN3O2
